US05859145
Poly(ethyl Methacrylate-Benzyl Methacrylate)
350 grams (3.5 mole) of polymethylmethacrylate (Plexiglass VO 44 from Rohm & Haas), 378 grams of benzyl alcohol (3.5 mole) and 0.54 gram (0.1 mole %) of an antioxidant Irganox 1076 were heated to 180° C. to dissolve them in 550 cc of decalin. 13.86 grams of tetraisopropyl titanate was added and the temperature was maintained at 180°-190° C. for 14 hours, and during this time 23 ml of distillate containing methanol was collected and the reaction was stopped. The polymer was precipitated in methanol then washed with hexane. After drying at 55° C. overnight in an vacuum oven, 404 gram of polymer were recovered with a DSC melting point of 93°-94° C. NMR analysis showed a 22.6% conversion of methyl ester to benzyl ester.

reactant | benzyl alcohol | 3.5 mole, 378 grams | C(C1=CC=CC=C1)O | C7H8O
reactant | Irganox 1076 | 0.54 gram | CCCCCCCCCCCCCCCCCCOC(=O)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C35H62O3
reactant | methanol | CO | CH4O
solvent | decalin | 550 cc | C1CCCC2CCCCC12 | C10H18
catalyst | tetraisopropyl titanate | 13.86 grams | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | ethyl Methacrylate Benzyl Methacrylate | C(C(=C)C)(=O)OCC.C(C(=C)C)(=O)OCC1=CC=CC=C1 | InChI=1S/C11H12O2.C6H10O2/c1-9(2)11(12)13-8-10-6-4-3-5-7-10;1-4-8-6(7)5(2)3/h3-7H,1,8H2,2H3;2,4H2,1,3H3
